### PR TITLE
Observing properties for refl graphs

### PR DESCRIPTION
**Pull request by IanRay11**
Okay... there is some pretty gnarly equivalence reasoning happening in unbiased-lens-structure-is-contr but it is a fairly straightforward extension of the proofs for the other two lens structures, and it has been an ongoing effort to minimize this. I am open to suggestions on how to further improve the readability here.

### CODE REVIEW

File: source/ReflexiveGraphs/Properties.lagda [hunk 1]
```diff
@@ -0,0 +1,239 @@
...
+
+displayed-refl-graph-univalence-is-a-property
+ : (𝓐 : Refl-Graph 𝓤 𝓥) (𝓑 : Displayed-Refl-Graph 𝓤' 𝓥' 𝓐)
+ → is-prop (is-displayed-univalent-refl-graph 𝓐 𝓑)
+displayed-refl-graph-univalence-is-a-property 𝓐 𝓑
+ = Π-is-prop fe (λ - → refl-graph-univalence-is-a-property ([ 𝓑 ] -))
+
+\end{code}
+
+We show that the oplax contravariant lens structure is contracible and in fact a
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Properties.lagda]: _Contracible_

File: source/ReflexiveGraphs/Properties.lagda [hunk 2]
```diff
@@ -0,0 +1,239 @@
...
+                        ; rext = λ {x y} → (pr₁ (pr₂ (f x))) y
+                        ; ext-refl = λ {x} → pr₁ (pr₂ (pr₂ (f x)))
+                        ; rext-refl = λ {x} → pr₂ (pr₂ (pr₂ (f x)))})
+         , ∼-refl , ∼-refl)
+   II : (x : ⟨ 𝓐 ⟩) (ϕ : ⟨ ⟨ 𝓑 (≈-refl 𝓐 x) ⟩ ➙ 𝓑 (≈-refl 𝓐 x) ⟩)
+       → is-contr (fan (⟨ 𝓑 (≈-refl 𝓐 x) ⟩ ➙ 𝓑 (≈-refl 𝓐 x)) ϕ)
+   II x ϕ = prop-fan-to-contr (⟨ 𝓑 (≈-refl 𝓐 x) ⟩ ➙ 𝓑 (≈-refl 𝓐 x))
+              (univalence-closed-under-cotensor fe _ (𝓑 (≈-refl 𝓐 x))
+               (is-ua-𝓑 x x (≈-refl 𝓐 x))) ϕ
+   III : (x : ⟨ 𝓐 ⟩) → _ ≃ fan (⟨ 𝓑 (≈-refl 𝓐 x) ⟩ ➙ 𝓑 (≈-refl 𝓐 x)) id
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Properties.lagda:194]: This is too hard to read in my opinion. Here's a suggestion that hopefully helps to make things more readable, after which I'd be very happy to have another look.

Start by introducing some abbreviations (obviously not `foo` — so not like I did here 🙃) and by clearly separating the types from the equivalences, e.g. change line 211 to
```
    (Σ ϕ ꞉ (foo → foo)
      , Σ ψ ꞉ (foo → foo) , ((u : foo) → ϕ u ≈⟨ 𝕗𝕠𝕠 ⟩ ψ u)
                          × ((u : foo) → u ≈⟨ 𝕗𝕠𝕠 ⟩ ψ u))   ≃⟨by-definition⟩
     [...]
     where
      foo = ⟨ 𝓑 (≈-refl 𝓐 x) ⟩
      𝕗𝕠𝕠 =  𝓑 (≈-refl 𝓐 x)
```

Comment (IanRay11) [reply source/ReflexiveGraphs/Properties.lagda:194]: Do you think the abbreviations should be identifiable with what they are representing or should I continue with roman numerals?

Comment (tomdjong) [reply source/ReflexiveGraphs/Properties.lagda:194]: If you can give it a short descriptive name, good. If not, I'd follow standard mathematical conventions, e.g. name types `X`, `Y`, `Z` (types with structure could be in boldface), functions `f`, `g`, `h`, etc. I wouldn't use Roman numerals because they're already used for proof steps / equivalences, so it would give off the wrong signal.

**Comment by tomdjong** [comment]
Thanks @IanRay11! I think it's a lot better better now :smile: (I hope you agree?) Ready to be merged as far as I'm concerned.
@martinescardo Do you wish to have a look?

**Comment by IanRay11** [comment]
@tomdjong definitely!

**Comment by IanRay11** [comment]
Perhaps @cangiuli wants to have a look too.

File: source/ReflexiveGraphs/Properties.lagda [hunk 3]
```diff
@@ -0,0 +1,238 @@
...
+    (Σ ϕ ꞉ (X → X) , Σ ψ ꞉ (X → X)
+     , ((u : X) → ϕ u ≈⟨ 𝕏 ⟩ ψ u) × ((u : X) → u ≈⟨ 𝕏 ⟩ ψ u))
+                                                              ≃⟨by-definition⟩
+    (Σ ϕ ꞉ (X → X) , Σ ψ ꞉ (X → X) , (ϕ ≈⟨ X ➙ 𝕏 ⟩ ψ) × (id ≈⟨ X ➙ 𝕏 ⟩ ψ))
+                                                              ≃⟨ VI ⟩
+    (Σ ϕ ꞉ (X → X) , Σ (ψ , _) ꞉ fan (X ➙ 𝕏) ϕ , (id ≈⟨ X ➙ 𝕏 ⟩ ψ))
+                                                              ≃⟨ VII ⟩
+    ((Σ ϕ ꞉ (X → X) , (id ≈⟨ X ➙ 𝕏 ⟩ ϕ)))
+                                                              ≃⟨by-definition⟩
+    fan (X ➙ 𝕏) id ■
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Properties.lagda]: Minor: could the black box align with the equivalence sign at the end?

File: source/ReflexiveGraphs/Properties.lagda [hunk 4]
```diff
@@ -0,0 +1,238 @@
...
+     where
+      𝕏 = 𝓑 (≈-refl 𝓐 x)
+      X = ⟨ 𝓑 (≈-refl 𝓐 x) ⟩
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Properties.lagda]: Maybe `X = ⟨ 𝓑 (≈-refl 𝓐 x) ⟩` replaced by `X = ⟨  𝕏  ⟩`?

In any case the `𝕏 ` looks a bit like the twitter logo. You could use `𝔹` and `B`, given that both come from `𝓑`.

File: source/ReflexiveGraphs/Properties.lagda [hunk 5]
```diff
@@ -0,0 +1,238 @@
...
+      𝕐 : ⟨ 𝓐 ⟩ → Refl-Graph 𝓤' 𝓥'
+      𝕐 y = 𝓑 (≈-refl 𝓐 y)
+      IV = Σ-bicong _ _ (≃-sym (curry-uncurry fe'))
+            (λ _ → Σ-change-of-variable-≃ _ (≃-sym (curry-uncurry fe')))
+      V = Σ-bicong _ _ (prop-indexed-product (x , ≈-refl 𝓐 x) fe (is-ua-𝓐 x))
+           (λ _ → Σ-change-of-variable-≃ _
+            (prop-indexed-product (x , ≈-refl 𝓐 x) fe (is-ua-𝓐 x)))
+      VI = Σ-cong (λ _ → ≃-sym Σ-assoc)
+      VII = Σ-cong (λ - → prop-indexed-sum (center (II x -))
+                            (singletons-are-props (II x -)))
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Properties.lagda]: Indentation by 1 to be consistent.

**Review by martinescardo — CHANGES_REQUESTED** [review]
Minor changes requested.

**Review by martinescardo — APPROVED** [review]

**Comment by cangiuli** [comment]
I've discussed the PR with @IanRay11 and also approve, for what it's worth.

**Comment by IanRay11** [comment]
I'm going to take one final look and see if anything can be simplified then, if everyone is happy, we can merge.

**Comment by tomdjong** [comment]
Thanks Carlo! Could you write here when you're finished, @IanRay11? Cheers

**Comment by IanRay11** [comment]
Okay @tomdjong I'm happy with it.
